US09334267B2
Treat a solution of 4-amino-2-(methylthio)pyrimidine-5-carbaldehyde (10 g, 59.1 mmol) in acetone (100 mL) with KOH (3.32 g, 59.1 mmol), stir at RT for 10 min, then concentrate to dryness. Treat the residue with EtOAc, wash with saturated. Aqueous NaHCO3, then brine, dry over Na2SO4 and concentrate to obtain 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidine. MS (m/z): 192.1 (M+1). Add a solution of methylamine in ethanol (33%, 80 mL) and heat at 110° C. overnight in a pressure tube. Remove the solvent under reduced pressure and purify the crude product by silica gel chromatography (50-100% EtOAc/Hexanes) to obtain the title compound (6.73 g, 65%, over two steps). MS (m/z): 175.1 (M+1).

reactant | 4-amino-2-(methylthio)pyrimidine-5-carbaldehyde | 59.1 mmol, 10 g | NC1=NC(=NC=C1C=O)SC | C6H7N3OS
reactant | KOH | 59.1 mmol, 3.32 g | [OH-].[K+]
reactant | acetone | 100 mL | CC(=O)C | C3H6O
product | 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidine | CC=1C=CC2=C(N=C(N=C2)SC)N1 | C9H9N3S
